US03974176
10 g of 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile, 100 ml of ethanol, 1.5 ml of water and 15 ml of concentrated sulfuric acid are heated for 16 hours at boiling point. The liquid is poured on to ice, made alkaline with sodium bicarbonate solution extracted with ether and reduced in bulk. After recrystallisation from ethanol and water ethyl 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetate is obtained with a 69% yield; F 51.5°-52.5° (from ether/petroleum ether).

reactant | 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetonitrile | 10 g | ClC1=C(C(=NN1C1=CC=CC=C1)C1=CC=C(C=C1)Cl)CC#N | C17H11Cl2N3
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 1.5 ml | O | H2O
product | water ethyl 5-chloro-3-p-chlorophenyl-1-phenyl-pyrazole-4-acetate | 69% yield | C(C)OC(CC=1C(=NN(C1Cl)C1=CC=CC=C1)C1=CC=C(C=C1)Cl)=O.O | InChI=1S/C19H16Cl2N2O2.H2O/c1-2-25-17(24)12-16-18(13-8-10-14(20)11-9-13)22-23(19(16)21)15-6-4-3-5-7-15;/h3-11H,2,12H2,1H3;1H2
